US08664401B2
Step E) 2-Ethyl-2-(methylsulfonyl)-4-(2-oxo-4-phenylpyridin-1(2H)-yl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide
Diisopropylethylamine (35 uL, 0.2 mmol, 2.1 equiv) and 1-hydroxyl benzotriazole monohydrate (27 mg, 0.18 mmol, 1.9 equiv) were added sequentially to a solution of 2-ethyl-2-(methylsulfonyl)-4-(2-oxo-4-phenylpyridin-1(2H)-yl)butanoic acid (34 mg, 0.09 mmol, 1.0 equiv) in dichloromethane (2 mL) at room temperature. After 30 min, O-(tetrahydro-2H-pyran-2-yl)hydroxylamine (15 mg, 0.12 mmol, 1.3 equiv) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (26 mg, 0.13 mmol, 1.4 equiv) were added, and the reaction was allowed to stir overnight. Water (2 mL) was added, the organic phase was separated, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The crude material was purified by flash chromatography (1:1-0:1 heptane/ethyl acetate) to provide a colorless oil (45 mg, 100%). MS (LCMS) m/z 461.8 (M−1).

reactant | Diisopropylethylamine | 0.2 mmol, 35 uL, 2.1 equiv | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-hydroxyl benzotriazole monohydrate | 0.18 mmol, 27 mg, 1.9 equiv | O.ON1N=NC2=C1C=CC=C2
reactant | 2-ethyl-2-(methylsulfonyl)-4-(2-oxo-4-phenylpyridin-1(2H)-yl)butanoic acid | 0.09 mmol, 34 mg, 1.0 equiv | C(C)C(C(=O)O)(CCN1C(C=C(C=C1)C1=CC=CC=C1)=O)S(=O)(=O)C | C18H21NO5S
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 0.12 mmol, 15 mg, 1.3 equiv | O1C(CCCC1)ON | C5H11NO2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.13 mmol, 26 mg, 1.4 equiv | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | Water | 2 mL | O | H2O
product | 2-Ethyl-2-(methylsulfonyl)-4-(2-oxo-4-phenylpyridin-1(2H)-yl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 45 mg, 100% | C(C)C(C(=O)NOC1OCCCC1)(CCN1C(C=C(C=C1)C1=CC=CC=C1)=O)S(=O)(=O)C | C23H30N2O6S
